US07429594B2
1-Azido-3-phenyl-propan-2-ol
To the stirring solution of (2,3-epoxypropyl)benzene (1.0 g, 7.5 mmol) in 4 mL DMF was added a solution of sodium azide (0.97 g, 15 mmol) in 4 mL water. The solution was heated to 90° C. for 1 h. The solvent was removed under reduced pressure. The solid residue was partitioned between ethyl acetate and near saturated sodium chloride. The aqueous layer was washed three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, and purified on 10 g of silica eluting with 0 to 50% ethyl acetate/hexanes to give a clear oil. NMR (CDCL3) d (1H, 1.97 ppm), m (2H, 2.73-2.82 ppm), m (1H, 3.22-3.30 ppm), dd (1H, 3.36 ppm), m (1H, 3.92-4.02 ppm), m (3H, 7.13-7.28 ppm), m (2H, 7.28-7.34 ppm).

reactant | (2,3-epoxypropyl)benzene | 7.5 mmol, 1.0 g | O1C(CC2=CC=CC=C2)C1 | C9H10O
reactant | sodium azide | 15 mmol, 0.97 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 4 mL | O | H2O
product | 1-Azido-3-phenyl-propan-2-ol | N(=[N+]=[N-])CC(CC1=CC=CC=C1)O | C9H11N3O
